US09226923B2
(R)-tert-butyl 2-(4-(6-amino-5-(1-(2,6-dichloro-3-fluorophenyl)ethoxy)pyridin-3-yl)-1H-pyrazol-1-yl)-7-azaspiro[3.5]nonane-7-carboxylate (105 mg, 0.178 mmol, 1.0 equiv) was dissolved in formic acid (6 mL). The solution was sonicated at room temperature for 90 min (the temperature of sonication bath reached about 40° C. after 90 min). The solution was cooled to room temperature and concentrated by rotavapor to give the residue which was dissolved in EtOAc (20 mL). A solution of Na2CO3 (2.0 M, 20 mL) was added. The mixture was stirred at room temperature for 30 min. H2O (10 mL) was added. The layers were separated. The aqueous phase was extracted with DCM (3×30 mL). The combined organic phase was washed with brine (30 mL), dried over anhydrous Na2SO4, concentrated to give pale yellow solid which was purified by CombiFlash [12 g silica gel column; (MeOH/NH4OH=10/1)/DCM: 0-20%] to afford 77 mg (yield 88%) of (R)-5-(1-(7-azaspiro[3.5]nonan-2-yl)-1H-pyrazol-4-yl)-3-(1-(2,6-dichloro-3-fluorophenyl)ethoxy)pyridin-2-amine as a off-white foam solid.

reactant | (R)-tert-butyl 2-(4-(6-amino-5-(1-(2,6-dichloro-3-fluorophenyl)ethoxy)pyridin-3-yl)-1H-pyrazol-1-yl)-7-azaspiro[3.5]nonane-7-carboxylate | 0.178 mmol, 105 mg, 1.0 equiv | NC1=C(C=C(C=N1)C=1C=NN(C1)C1CC2(C1)CCN(CC2)C(=O)OC(C)(C)C)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C29H34Cl2FN5O3
reactant | Na2CO3 | 2.0 M, 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O | 10 mL | O | H2O
solvent | formic acid | 6 mL | C(=O)O | CH2O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (R)-5-(1-(7-azaspiro[3.5]nonan-2-yl)-1H-pyrazol-4-yl)-3-(1-(2,6-dichloro-3-fluorophenyl)ethoxy)pyridin-2-amine | 77 mg, yield 88% | C1C(CC12CCNCC2)N2N=CC(=C2)C=2C=C(C(=NC2)N)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C24H26Cl2FN5O
